US05786356
6-Bromo-2-tetralone ethylene ketal (2.2 g, 8.15 mmol) was dissolved in anhydrous THF (30 mL), cooled to -78° C. and treated with tert-butyllithium (12.05 mL, 20.4 mmol, 1.7M in pentane) under an atmosphere of nitrogen. After stirring for 30 minutes, anhydrous carbon dioxide gas was passed through the reaction mixture for 20 minutes at -78° C. The suspension was then allowed to warm to ambient temperature. The solution was quenched with water and acidified with 1N HCl, then extracted 2 × EtOAc. The organic extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo to a pale brown oil. The oily residue was applied to a silica flash chromatography column and eluted with 30%-50% EtOAC in hexanes to yield tetralone-6-carboxylic acid, ethylene ketal 1.06 g (55%) of a slowly crystallizing solid. NMR. MS.

reactant | 6-Bromo-2-tetralone ethylene ketal | 8.15 mmol, 2.2 g | C1COC2(CC3=CC=C(C=C3CC2)Br)O1 | C12H13BrO2
reactant | tert-butyllithium | 20.4 mmol, 1.7M, 12.05 mL | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | tetralone-6-carboxylic acid | C1(CCCC2=CC(=CC=C12)C(=O)O)=O | C11H10O3
